US06071496
Isoprene/hydroxypropyl-β-cyclodextrin-inclusion Compound
15 ml of 20% hydroxypropyl-β-cyclodextrin solution were mixed with 2 ml of isoprene at 10° C., ultrasounded for 3 minutes in the ultrasonic bath and then incubated for 26 hours. The resulting complex remained partly in solution and precipitated partly as a white deposit.

reactant | hydroxypropyl-β-cyclodextrin | 15 ml | CC(COC[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)O)O)O | C63H112O42
reactant | isoprene | 2 ml | C=CC(C)=C | C5H8
product | Isoprene hydroxypropyl-β-cyclodextrin | C=CC(C)=C.CC(COC[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)O)O)O | InChI=1S/C63H112O42.C5H8/c1-22(64)8-85-15-29-50-36(71)43(78)57(92-29)100-51-30(16-86-9-23(2)65)94-59(45(80)38(51)73)102-53-32(18-88-11-25(4)67)96-61(47(82)40(53)75)104-55-34(20-90-13-27(6)69)98-63(49(84)42(55)77)105-56-35(21-91-14-28(7)70)97-62(48(83)41(56)76)103-54-33(19-89-12-26(5)68)95-60(46(81)39(54)74)101-52-31(17-87-10-24(3)66)93-58(99-50)44(79)37(52)72;1-4-5(2)3/h22-84H,8-21H2,1-7H3;4H,1-2H2,3H3/t22?,23?,24?,25?,26?,27?,28?,29-,30-,31-,32-,33-,34-,35-,36-,37-,38-,39-,40-,41-,42-,43-,44-,45-,46-,47-,48-,49-,50-,51-,52-,53-,54-,55-,56-,57-,58-,59-,60-,61-,62-,63-;/m1./s1
